US07968538B2
Chroman-4-one (3 g, 20.1 mmol), titanium(IV) isopropoxide (12.0 mL, 40.2 mmol) and 2 M solution of ammonia in ethanol (60.6 mL, 121.2 mmol) were stirred at room temperature for 6 h. The reaction was cooled to 0° C. and sodium borohydride was added portionwise during 10 min. (1.14 g, 30.2 mmol); the resultant mixture was stirred at rt for an additional 3 h. The reaction was quenched by pouring it into ammonium hydroxide (2 M, 60 mL), the precipitate that formed was filtered off and washed with ethyl acetate (15 mL×3). The organic layer was separated and the remaining aqueous layer was extracted with ethyl acetate (15 mL×2). The combined organic extracts were washed with 1 M HCl (25 mL). The acidic aqueous extracts were washed with ethyl acetate (50 mL), then treated with aqueous sodium hydroxide (2 M) to pH 10-12, and extracted with ethyl acetate (40 mL×3). The combined organic extracts were washed with brine, dried (Na2SO4), and concentrated in vacuo to afford Chroman-4-amine as an oil (2.61 g, 87% yield). 1H NMR (400 MHz, CDCl3) δ 7.31 (d, 1H), 7.23 (m, 1H), 6.94 (m, 1H), 6.82 (d, 1H), 4.38 (m, 2H), 4.12 (m, 1H), 2.19 (m, 2H), 1.82 (m, 2H).

reactant | Chroman-4-one | 20.1 mmol, 3 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | ammonia | N | H3N
reactant | ethanol | 121.2 mmol, 60.6 mL | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 40.2 mmol, 12.0 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | Chroman-4-amine | 2.61 g, 87% yield | O1CCC(C2=CC=CC=C12)N | C9H11NO
